US04736065
(b) 5-Bromo-2-naphthaleneacetaldehyde
The methyl 5-bromo-2-naphthylvinyl ether (2.8 g) dissolved in tetrahydrofuran (55 ml) was stirred with concentrated hydrochloric acid (10 ml) for 1 hour at room temperature. Ether and water were added and the organic solution separated and washed with water, saturated sodium bicarbonate and saturated sodium chloride solutions. Evaporation gave a liquid (2.8 g), nD20 =1.6444.

reactant | methyl 5-bromo-2-naphthylvinyl ether | 2.8 g | BrC1=C2C=CC(=CC2=CC=C1)C=COC | C13H11BrO
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | Ether | CCOCC | C4H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
product | 5-Bromo-2-naphthaleneacetaldehyde | 2.8 g | BrC1=C2C=CC(=CC2=CC=C1)CC=O | C12H9BrO
